US05904937
Chewable Tablets Prepared from Wet Granulated Ibuprofen
In a twin shell blender were placed 369.6 grams of the dried wet granulation of Example 3, 369.6 grams glyceryl monostearate (Myvaplex® 600, Eastman Chemical Co.), 33.2 grams of aspartame (The NutraSweet Co.), 21.6 grams of apple cinnamon durarome #860.310/TD 05.91 (Firminich Inc.), and 27.6 grams of an artificial special compound flavor (Firminish Inc.). This mixture was blended for 10 minutes after which 138.6 grams of Pregelatinized Starch (Starch 1500 Colorcon), 969.8 grams of granular mannitol, and 27.6 grams of crosslinked sodium carboxymethylcellulose (Accelerate™, FMC Corporation) were added to the blender. Mixing was continued for 10 more minutes, and then 19.4 grams of magnesium stearate was added to the blender. Mixing was completed in five minutes. Prior to adding each material to the blender, it was passed through a Number 30 US Standard Sieve. This mixture was then compressed into a tablet. The particle size distribution of the granulation used in this formulation was determined by using a Sonic Sifter, a vibrated stack of U.S. Standard Sieves in which each succeeding sieve is finer in mesh than the one above it. The amount of product retained on each sieve provides the percentage of particles larger than that sieve, but smaller then the next higher sieve. Particles having sizes in each mesh range were: 48.23%>297 microns (>50 mesh); 29.657% 177-297 microns (50-80 mesh); 5.39% 149-177 microns (80-100 mesh); 13.57% 74-149 microns (100-200 mesh); 3.17% 53-74 microns (200-270 mesh); and 5.00%<53 microns (<270 mesh). The loose bulk density of this material was 0.6164 grams/mL. The water content of the granulation was 1.50%. Properties of the chewable tablets include tablet thickness (3.25 mm, 0.1279 inch), hardness (5.37 kiloponds), and disintegration time in 37° C. purified water (184 seconds). All of these measurements were taken on ten tablets except disintegration time which used six tablets. The unpleasant flavor of ibuprofen was effectively masked by using the wet granulation in combination with other excipients.

reactant | glyceryl monostearate | 369.6 grams | C(CCCCCCCCCCCCCCCCC)(=O)OCC(O)CO | C21H42O4
reactant | aspartame | 33.2 grams | COC(=O)[C@H](CC=1C=CC=CC1)NC(=O)[C@H](CC(=O)O)N | C14H18N2O5
reactant | NutraSweet | COC(=O)[C@H](CC1=CC=CC=C1)NC(=O)[C@H](CC(=O)O)N | C14H18N2O5
reactant | mannitol | 969.8 grams | C([C@@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O | C6H14O6
reactant | magnesium stearate | 19.4 grams | C(CCCCCCCCCCCCCCCCC)(=O)[O-].[Mg+2].C(CCCCCCCCCCCCCCCCC)(=O)[O-]
solvent | water | O | H2O
product | Ibuprofen | OC(=O)C(C)C1=CC=C(CC(C)C)C=C1 | C13H18O2
